US09328111B2
Step 5: 8,9-Dihydro-2H-benzo[a]pyridazino[5,4,3-kl]acridin-3(7H)-one
A mixture of methyl 12-methoxy-5,6-dihydrobenzo[a]acridine-11-carboxylate (20 mg, 0.06 mmol) and hydrazine hydrate (0.5 mL) in DMA (0.8 mL) was heated at 130° C. for 4 h. The reaction mixture was cooled, treated with ethyl acetate (0.5 mL), water (1 mL) and brine (1 mL). The resulting precipitate was collected by filtration, dissolved in a mixture of methanol:dichloromethane (1:8, 10 mL), dried over Na2SO4, filtered, concentrated, chromatographed on silica gel using gradint eluant of 0-3.2% methanol in dichloromethane to give the desired compound as a yellow solid (7 mg, 39%). 1H NMR (DMSO-d6) δ11.85 (s, 1H), 10.88 (s, 1H), 8.77-8.78 (m, 1H), 7.66-7.68 (m, 1H), 7.56-7.57 (m, 1H), 7.35-7.37 (m, 1H), 7.19-7.20 (m, 2H), 7.09-7.11 (m, 1H), 2.83-2.85 (m, 2H), 2.66-2.69 (m, 2H). MS (ESI) m/e [M+1]+288.

reactant | methyl 12-methoxy-5,6-dihydrobenzo[a]acridine-11-carboxylate | 0.06 mmol, 20 mg | COC=1C2=C(C=CC=C2N=C2CCC3=C(C12)C=CC=C3)C(=O)OC | C20H17NO3
reactant | hydrazine hydrate | 0.5 mL | O.NN
reactant | ethyl acetate | 0.5 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 1 mL | O | H2O
solvent | DMA | 0.8 mL | CC(=O)N(C)C | C4H9NO
solvent | brine | 1 mL | [Cl-].[Na+].O
product | 8,9-Dihydro-2H-benzo[a]pyridazino[5,4,3-kl]acridin-3(7H)-one | 7 mg, 39% | N=1NC(C=2C=CC=C3NC=4CCC5=C(C4C1C23)C=CC=C5)=O | C18H13N3O
